US09428509B2
5-Chloro-1-(tetrahydro-2H-pyran-4-yl)-1H-pyrazol-4-amine
To a suspension of 5-chloro-4-nitro-1-(tetrahydro-2H-pyran-4-yl)-1H-pyrazole (1 equiv) and iron dust (3 equiv) in water (0.35 M) was added acetic acid (3.54 M). The mixture was heated to 90° C. for 1.5 h then cooled to room temperature. The reaction was quenched by addition of solid sodium bicarbonate and treated with ethyl acetate (0.06M) with continuous stirring. The mixture was filtered and the filter cake was rinsed with ethyl acetate. The combined filtrate was dried over sodium sulfate and concentrated under reduced pressure. The crude product was purified by silica gel chromatography (1.5% MeOH in DCM) to provide the desired product (52% yield) as a brown oil. MS (ESI) m/z 202.1 [M+H]+.

reactant | 5-chloro-4-nitro-1-(tetrahydro-2H-pyran-4-yl)-1H-pyrazole | 1 equiv | ClC1=C(C=NN1C1CCOCC1)[N+](=O)[O-] | C8H10ClN3O3
reactant | acetic acid | 3.54 M | C(C)(=O)O | C2H4O2
solvent | water | 0.35 M | O | H2O
catalyst | iron | 3 equiv | [Fe] | Fe
product | 5-Chloro-1-(tetrahydro-2H-pyran-4-yl)-1H-pyrazol-4-amine | 52% yield | ClC1=C(C=NN1C1CCOCC1)N | C8H12ClN3O
